US05773448
3,3-Dimethyl-1-(2-hydroxyethyl)-5-methanesulfonyl-1,3-dihydro-2H-indol-2-one:
Prepared from 3,3-dimethyl-5-methanesulfonyl-1,3-dihydro-2H-indol-2-one and 2-(2-chloroethoxy)tetrahydro-2H-pyran.

reactant | 3,3-dimethyl-5-methanesulfonyl-1,3-dihydro-2H-indol-2-one | CC1(C(NC2=CC=C(C=C12)S(=O)(=O)C)=O)C | C11H13NO3S
reactant | 2-(2-chloroethoxy)tetrahydro-2H-pyran | ClCCOC1OCCCC1 | C7H13ClO2
product | 3,3-Dimethyl-1-(2-hydroxyethyl)-5-methanesulfonyl-1,3-dihydro-2H-indol-2-one | CC1(C(N(C2=CC=C(C=C12)S(=O)(=O)C)CCO)=O)C | C13H17NO4S
